US04469703
Preparation of 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-diacetoxypropane
A mixture of 12.85 g (0.05 moles) of 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-propanediol, 20.4 g of acetic anhydride and 3.92 g of acetyl chloride is stirred at 50° C. for 5 hours. The mixture is cooled and poured onto ice. The resulting oily substance is washed twice with ice-cold water and decanted. Crystallization sets in after adding 20 ml of isopropanol to the substance. The separated crystalline product is filtered off, washed thrice with 5 ml of isopropanol and 10 ml of n-hexane, each, and dried. 11.1 g (65.1%) of the title compound are obtained; m.p.: 85°-88° C.

reactant | 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-propanediol | 0.05 moles, 12.85 g | COC=1C=C(C=CC1OC)C(C(CO)[N+](=O)[O-])O | C11H15NO6
reactant | acetic anhydride | 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 3.92 g | C(C)(=O)Cl | C2H3ClO
product | 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-diacetoxypropane | 11.1 g, 65.1% | COC=1C=C(C=CC1OC)C(C(COC(C)=O)[N+](=O)[O-])OC(C)=O | C15H19NO8
